US04172141
Ethereal hydrogen chloride is added dropwise to a stirred solution of 1.0 g. of 1-[2-(2-naphthyl)-2-(methoxy)ethyl]imidazole in 100 ml. of anhydrous ether until precipitation is complete. The product is filtered off, washed with ether, air dried and recrystallized from ethyl acetate/methanol to yield 1-[2-(2-naphthyl)-2-(methoxy)ethyl]imidazole hydrochloride, m.p. 171.5°-172.5° C.

reactant | hydrogen chloride | Cl | ClH
reactant | 1-[2-(2-naphthyl)-2-(methoxy)ethyl]imidazole | C1=C(C=CC2=CC=CC=C12)C(CN1C=NC=C1)OC | C16H16N2O
product | 1-[2-(2-naphthyl)-2-(methoxy)ethyl]imidazole hydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)C(CN1C=NC=C1)OC | InChI=1S/C16H16N2O.ClH/c1-19-16(11-18-9-8-17-12-18)15-7-6-13-4-2-3-5-14(13)10-15;/h2-10,12,16H,11H2,1H3;1H
